US08314087B2
tert-Butyl 2-(5-bromo-2-oxopyridin-1(2H)-yl)ethylcarbamate.
To a stirring solution of 5-bromo-2(1h)-pyridone (550 mg, 3161 μmol) in DMF (5 mL) under nitrogen was added NaH (60% dispersion in mineral oil; 152 mg, 6322 μmol). After for 10 min, 2-(boc-amino) ethyl bromide (779 mg, 3477 μmol) was added. The mixture was stirred for 18 h at 23° C. The mixture was partitioned between CH2Cl2 and 5% NaHCO3. The aqueous was extracted with CH2Cl2 (10 mL) twice. The combined organics were dried over MgSO then concentrated to a solid from toluene under reduced pressure. The residue was purified on silica (40 g) eluting with 0-30% of 5% MeOH/CH2Cl2 to give the product as a white solid. MS (ESI pos. ion) m/z (MH+): 317/319. Calc'd exact mass for C12H17BrN2O3: 316. 1H NMR (400 MHz, Chloroform-d) δ ppm 1.44 (s, 9H) 3.45 (q, J=6.02 Hz, 2H) 4.03-4.09 (m, 2H) 4.92 (br. s., 1H) 6.48 (d, J=10.04 Hz, 1H) 7.34-7.39 (m, 2H). 13C NMR (101 MHz, Chloroform-d) δ ppm 26.08, 37.26, 47.20, 95.56, 119.79, 135.87, 140.53

reactant | 5-bromo-2(1h)-pyridone | 3161 μmol, 550 mg | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | NaH | 6322 μmol, 152 mg | [H-].[Na+]
reactant | 2-(boc-amino) ethyl bromide | 3477 μmol, 779 mg | C(=O)(OC(C)(C)C)NCCBr | C7H14BrNO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 2-(5-bromo-2-oxopyridin-1(2H)-yl)ethylcarbamate | BrC=1C=CC(N(C1)CCNC(OC(C)(C)C)=O)=O | C12H17BrN2O3
